US07985762B2
Step 1: 3-Amino-N-cyclopropyl-2-hydroxyhexanamide bound resin (M1D)
Allyl 1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamate bound resin M1B (30 g, 1.0 eq.) was swollen with DCM. 1,3-Dimethylbarbituric acid (24.17 g, 12 eq.) and tetrakis(triphenylphosphine)palladium (1.49 g, 0.1 eq.) were added and the mixture shaken overnight. The mixture was filtered and washed with DMF and DCM to yield the resin M1D.

reactant | Allyl 1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamate | C1(CC1)NC(C(C(CCC)NC(OCC=C)=O)O)=O | C13H22N2O4
reactant | 1,3-Dimethylbarbituric acid | 24.17 g, 12 eq. | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
catalyst | tetrakis(triphenylphosphine)palladium | 1.49 g, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-Amino-N-cyclopropyl-2-hydroxyhexanamide | NC(C(C(=O)NC1CC1)O)CCC | C9H18N2O2
